US05981533
5-Amino-4-cyano-3-(4-methoxy-benzylamino)-pyrazole
A mixture of 15 g (57.8 mmol) of 2-cyano-3-(4-methoxy-benzylamino)-3-methylmercapto-acrylonitrile, 3.03 ml (61.1 mmol) of hydrazine hydrate and 40 ml of methanol is stirred for 1 hour at RT, heated under reflux for 2 hours and then concentrated by evaporation in vacuo. Recystallization of the residue from ethanol/hexane yields the title compound; m.p. 148-149° C.

reactant | 2-cyano-3-(4-methoxy-benzylamino)-3-methylmercapto-acrylonitrile | 57.8 mmol, 15 g | C(#N)C(C#N)=C(SC)NCC1=CC=C(C=C1)OC | C13H13N3OS
reactant | hydrazine hydrate | 61.1 mmol, 3.03 ml | O.NN
solvent | methanol | 40 ml | CO | CH4O
product | 5-Amino-4-cyano-3-(4-methoxy-benzylamino)-pyrazole | NC1=C(C(=NN1)NCC1=CC=C(C=C1)OC)C#N | C12H13N5O
